Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
dizziness, nausea, vomiting
 
Major Surgical or Invasive Procedure:
none.

 
History of Present Illness:
___ yo F w/ PMHx of ESRD ___ polycystic kidney disease and HTN, 
on peritonial dialysis since ___, p/w with 2 day h/o of 
cloudy/foul smelling urine, N/V, dizziness, HA, and blurred 
vision. Patient performs peritoneal dialysis 4x/day at home and 
goes into ___ Dialysis ___ in ___ ___ for 
monitoring. During past week, patient has been approximately 1L 
negative each day due to the time protocol that she is on (1500 
in, ___ out each time). Yesterday, after dialysis, 
patient's home BP measured to be in ___ and EMS was called. 
Patient had some chicken soup and EMS found patient to have SBP 
of 118. Of note, patient had not noticed any redness or 
discharge with dialysis catheter site on abdomen during this 
period. No fever/chills, CP, SOB, palpitations, abd pain, 
constipation, diarrhea. Patient did have 
.
Upon arrival to ED, VS: 98.9 80 120/84 16 97%, no orthostatic 
hypotension but + orthostatic dizziness. EKG showed NSR, TWF in 
lateral leads. A 1L NS bolus was given, along with Tylenol 1g 
for HA, with good relief. U/A showed many bacteria, >182WBC, lg 
leukocyte esterase and pt was treated with 1g IV Ceftriaxone. 
CXR showed no acute cardiopulmonary process, a small granuloma 
in RUL, & mild spurring in thoracic spine. FAST US showed sm 
fluid in splenorenal recess c/w peritoneal dialysis. 
.
Upon arrival to floor, patient's VS: 98.9/98.0 136/92 77 16 
100%RA. She reports that all of her sx have resolved and that 
she currently feels much better. ROS otherwise negative.

 
Past Medical History:
1. Adult Polycystic Kidney Disease
2. Hypertension
3. ESRD on PD
4. Uterine Prolapse
5. Grannuloma on CXR (3mm, calcified)
6. Anemia
 
Social History:
___
___ History:
Patient's mother had ___ c/by ESRD requiring dialysis  
Patient's daughter has ___ but has had no complications.  

 
Physical Exam:
Admission PHYSICAL EXAMINATION
VITALS: 98.0  136/92  77  16  100%RA
GENERAL: WDWN in NAD. Alert and oriented. No central or 
peripheral cyanosis; no jaundice, no palor.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Oropharynx clear.
NECK: Supple; no JVD; no LAD.
CARDIAC: RRR, normal S1, S2; no S3, S4. No m/r/g.
LUNGS: CTAB, no wh/r/rh. Respirations unlabored, no accessory 
muscle use.
ABDOMEN: +BS. Soft, NTND, no rebound, no gaurding. No HSM or 
tenderness. Catheter site with very mild erythema but c/d/i.
GU: No foley
EXTREMITIES: WWP, no cyanosis, no edema. 2+ pulses.
SKIN: No rashes, bruising, lesions.
NEURO: CN2-12 intact; strength ___, sensation/cerebellar fxn 
intact.

==================================================
Discharge PE:
VITALS: 98.0/97.6  137/86  76  16  99%RA
GENERAL: WDWN in NAD. Alert and oriented. No central or 
peripheral cyanosis; no jaundice, no palor.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Oropharynx clear.
NECK: Supple; no JVD; no LAD.
CARDIAC: RRR, normal S1, S2; no S3, S4. No m/r/g.
LUNGS: CTAB, no wh/r/rh. Respirations unlabored, no accessory 
muscle use.
ABDOMEN: +BS. Soft, NTND, no rebound, no gaurding. No HSM or 
tenderness. Catheter site with very mild erythema but c/d/i.
GU: No foley
EXTREMITIES: WWP, no cyanosis, no edema. 2+ pulses.
SKIN: No rashes, bruising, lesions.
NEURO: CN2-12 intact; strength ___, sensation/cerebellar fxn 
intact.

 
Pertinent Results:
Admission Labs: 
___ 01:30PM BLOOD WBC-8.2 RBC-3.93* Hgb-11.2* Hct-32.8* 
MCV-84 MCH-28.5 MCHC-34.2# RDW-17.0* Plt ___
___ 01:30PM BLOOD Neuts-80.1* Lymphs-14.7* Monos-3.8 
Eos-0.9 Baso-0.5
___ 01:30PM BLOOD Glucose-93 UreaN-76* Creat-6.2*# Na-130* 
K-3.1* Cl-91* HCO3-21* AnGap-21*
___ 08:45PM BLOOD Osmolal-294

___ 02:30PM URINE Color-Straw Appear-Hazy Sp ___
___ 02:30PM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 02:30PM URINE RBC-12* WBC->182* Bacteri-MANY Yeast-NONE 
Epi-3
___ 02:30PM URINE Mucous-RARE
___ 02:34PM URINE Hours-RANDOM UreaN-203 Creat-72 Na-44 
K-14 Cl-30 TotProt-45 Phos-20.9 Prot/Cr-0.6*
___ 02:34PM URINE Osmolal-203

___ 04:17AM ASCITES WBC-13* RBC-1* Polys-9* Lymphs-37* 
Monos-48* Eos-1* Macroph-5*
___ 04:17AM ASCITES TotPro-0 Glucose-790 LD(LDH)-4 
Albumin-LESS THAN 

Discharge Labs:
___ 11:30AM BLOOD WBC-8.9 RBC-4.65 Hgb-13.0 Hct-38.8 MCV-84 
MCH-28.0 MCHC-33.5 RDW-16.9* Plt ___
___ 11:30AM BLOOD Neuts-87.7* Lymphs-8.0* Monos-3.4 Eos-0.6 
Baso-0.3
___ 11:30AM BLOOD Glucose-81 UreaN-67* Creat-5.1*# Na-136 
K-3.1* Cl-96 HCO3-22 AnGap-21*

CXR (___): Cardiac silhouette and vascularity are normal. 
There is a small granuloma in the right upper lobe. Otherwise, 
lungs and pleural spaces are clear. Mild spurring is present 
along the thoracic spine. 
IMPRESSION: No evidence for active disease. 

 
Brief Hospital Course:
___ yo w ESRD on home PD 4x/day ___ adult polycystic kidney dz & 
HTN presents with hypotension, dizziness in setting of UTI and 
increased fluid removal from PD over the course of the last 
week.
.
Active Issues:
1. Hypotension - likely ___ UTI, decreased PO intake, and 
vomiting. Patient's BP have been stable since admission. Treated 
with antibiotics, sent home on Cipro 250mg PO daily (renally 
dosed). Urine cultures, blood cultures, and peritoneal cultures 
all pending, NGTDx1 day, dialysis RN to follow; Nephrology team 
to contact her and get that set up. 
.
2. Hyponatremia - resolved, likely self-limited due to 
infection, hypovolemia.
.
3. ESRD - appreciate renal recomendations. Cont' PD: 4x/day, 3hr 
exchange, 2L, 1.5% Dextrose in PD solution while in hospital. 
Will need dialysis nurse to follow up on culture data obtained 
here (urine, blood, peritoneal fluid). Dr. ___ to follow as 
outpatient.
.
4. Granuloma found on CXR since ___. PCP ___ need to 
follow up on this finding with proper reimaging or other 
clinical evaluation.
.
INACTIVE/CHRONIC ISSUES
.
HTN: continue amlodipine 5 daily
.
# Code: Full (discussed w pt)
.
.
___ Tests: 
Urine, blood, peritoneal cultures - pending, NGTDx1day. RN from 
___ clinic will follow. Nephrology team communicated this 
to RN.
.
.
Transitional issues: see above
-On ciprofloxacin 250mg PO daily (renally dosed)x14 days to end 
on ___ for UTI. Patient will f/u PCP & Dr. ___ 1 
week.
 
Medications on Admission:
1. calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO QMOWEFR 
(___).  
2. gentamicin 0.1 % Cream Sig: One (1) Appl Topical 1X (ONE 
TIME) as needed.  
3. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
dose PO DAILY (Daily).  
4. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
5. ferrous sulfate 325 mg (65 mg iron) Tablet Sig: One (1) 
Tablet PO once a day.  
6. sodium bicarbonate 650 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
7. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. calcium acetate 667 mg Capsule Sig: Two (2) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  

 
Discharge Medications:
1. calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO QMOWEFR 
(___).  
2. gentamicin 0.1 % Cream Sig: One (1) Appl Topical 1X (ONE 
TIME) as needed.  
3. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
dose PO DAILY (Daily).  
4. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
5. ferrous sulfate 325 mg (65 mg iron) Tablet Sig: One (1) 
Tablet PO once a day.  
6. sodium bicarbonate 650 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
7. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. calcium acetate 667 mg Capsule Sig: Two (2) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
9. ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 14 doses: please take once a day, to end on 
___ for a total of 14 days.
Disp:*14 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary Tract Infection
Dehydration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at the ___ 
___. You were admitted to the hospital with 
symptoms of dizziness, nausea, vomiting and headache. We believe 
you were dehydrated and also found you to have a urinary tract 
infection, which we are treating with antibiotics. You will need 
to continue antibiotics (Ciprofloxacin) for 13 more days, last 
dose ___. You will also need to follow up with your primary 
care physician and your nephrologist in the next week to follow 
up with your hospitalization.

You are to 
START ciprofloxacin 250mg by mouth daily, to end on ___.
Please continue your other medications as prescribed.

 
Followup Instructions:
___